US07491737B2
4-(1,3-thiazol-2-yl)piperidine hydrochloride
Prepared similarly as in the case of 4-(1H-imidazol-2-yl)piperidine dihydrochloride using 1,3-thiazole instead of 1-(diethoxymethyl)-1H-imidazole in Step A. 1H NMR (400 MHz, D2O): 8.24 (m, 1 H), 7.90(m, 1H), 3.77-3.68 (m, 1H), 3.57 (br. d, J=13 Hz, 2H), 3.19 (br. t, J=13 Hz, 2H), 2.42 (br. d, J=13 Hz, 21), 2.11-2.01 (m, 2H).

reactant | 4-(1H-imidazol-2-yl)piperidine dihydrochloride | Cl.Cl.N1C(=NC=C1)C1CCNCC1
reactant | 1,3-thiazole | S1C=NC=C1 | C3H3NS
product | 4-(1,3-thiazol-2-yl)piperidine hydrochloride | Cl.S1C(=NC=C1)C1CCNCC1 | InChI=1S/C8H12N2S.ClH/c1-3-9-4-2-7(1)8-10-5-6-11-8;/h5-7,9H,1-4H2;1H
